US08895566B2
DMF (3 mL) and 2M aqueous Na2CO3 (0.38 mL, 0.76 mmol) were added to a nitrogen flushed flask containing tert-butyl 2-(4-chlorophenyl)-2-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]isothiazol-3-yl)ethylcarbamate (150 mg, 0.291 mmol), (5R,7R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl 4-nitrobenzoate (117 mg, 0.350 mmol) and dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium(II) dichloromethane adduct (12 mg, 0.015 mmol). The mixture was heated at 80° C. for 1 hour. The mixture was cooled to room temperature and partitioned between EtOAc and water. The combined organic layers were washed with saturated aqueous NaHCO3 and brine, dried and concentrated. The residue was purified by flash chromatography on silica gel, eluting with hexanes:EtOAc (4:1 to 1:1) to give (5R,7R)-4-(3-(2-(tert-butoxycarbonylamino)-1-(4-chlorophenyl)ethyl)benzo[d]isothiazol-6-yl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl 4-nitrobenzoate (102 mg, 51%) as an oil. LCMS (APCI+) m/z 630, 632 [M+H]+; Rt=4.68 min.

reactant | Na2CO3 | 0.76 mmol, 2M, 0.38 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butyl 2-(4-chlorophenyl)-2-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]isothiazol-3-yl)ethylcarbamate | 0.291 mmol, 150 mg | ClC1=CC=C(C=C1)C(CNC(OC(C)(C)C)=O)C1=NSC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C26H32BClN2O4S
reactant | (5R,7R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl 4-nitrobenzoate | 0.350 mmol, 117 mg | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2C[C@H](C3=C2N=CN=C3Cl)C)C=C1 | C15H12ClN3O4
catalyst | dichloro[1,1′-bis(diphenylphosphino)-ferrocene]palladium(II) dichloromethane adduct | 0.015 mmol, 12 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (5R,7R)-4-(3-(2-(tert-butoxycarbonylamino)-1-(4-chlorophenyl)ethyl)benzo[d]isothiazol-6-yl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl 4-nitrobenzoate | 102 mg, 51% | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2C[C@H](C3=C2N=CN=C3C3=CC2=C(C(=NS2)C(CNC(=O)OC(C)(C)C)C2=CC=C(C=C2)Cl)C=C3)C)C=C1 | C35H32ClN5O6S
